US20010046476A1
Triclosan Acrylate
Irgasan® DP300 5-chloro-2-(2,4-dichlorophenol) (triclosan), 23.5 g (0.081 mol) was dissolved in 300 ml of dry tetrahydrofuran in a 1-I jacketed kettle with agitator, addition funnel and reflux condenser. Then 10.6 ml of triethylamine was added to the solution with agitation. To the resulting solution was added dropwise 6.68 (0.0738 mol) g of acryloyl chloride. The reaction temperature was maintained at 20° C. with a circulating cooling bath. After the addition of acryloyl chloride was completed, the agitation and temperature conditions were maintained for 5 hours. Then the reaction product was kept overnight at room temperature, filtered to remove solid triethylamine hydrochloride and the filtrate rotovapped at room temperature under 100-110 mm Hg to concentrate the product. The remaining solution was dissolved in 100 ml heptane and washed with 5% Na2CO3 solution in DI water until basic; then with DI water until neutral. The heptane solution of the product was dried with MgSO4 in a refrigerator overnight, and filtered. The filtrate contained 25.3% triclosan acrylate as determined by bromination. FTIR spectrum confirmed the presence of the unsaturated ester of a phenol (1753 cm−1).

reactant | Irgasan | C1=CC(=C(C=C1Cl)O)OC2=C(C=C(C=C2)Cl)Cl | C12H7Cl3O2
reactant | triethylamine | 10.6 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Triclosan Acrylate | C=CC(=O)OC1=C(C=CC(=C1)Cl)OC2=C(C=C(C=C2)Cl)Cl | C15H9Cl3O3
